### PR TITLE
feat(GroupTheory/GroupAction/SubMulAction/Combination): primitivity of the action

### PR DESCRIPTION
**Pull request by AntoineChambert-Loir**
Proves the primitivity of the action of the permutation and alternating groups on `Nat.Combination` (under appropriate assumptions).
The result follows from the fact that the stabilizer of a combination is a maximal subgroup.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/SpecificGroups/KleinFour.lean [hunk 1]
```diff
@@ -73,6 +73,11 @@ instance {G : Type*} [AddGroup G] [IsAddKleinFour G] : IsKleinFour (Multiplicati
 
 namespace IsKleinFour
 
+@[to_additive]
+theorem isMulCommutative {G : Type*} [Group G] [IsKleinFour G] :
+    IsMulCommutative G where
+  is_comm.comm := mul_comm_of_exponent_two exponent_two
+
```
Comment (AntoineChambert-Loir) [inline Mathlib/GroupTheory/SpecificGroups/KleinFour.lean]:
```suggestion
```

File: Mathlib/GroupTheory/GroupAction/SubMulAction/Combination.lean [hunk 2]
```diff
@@ -10,6 +10,8 @@ public import Mathlib.GroupTheory.GroupAction.SubMulAction
 public import Mathlib.GroupTheory.GroupAction.MultipleTransitivity
 public import Mathlib.GroupTheory.GroupAction.Embedding
 public import Mathlib.GroupTheory.GroupAction.Basic
+public import Mathlib.GroupTheory.Perm.MaximalSubgroups
+public import Mathlib.GroupTheory.SpecificGroups.Alternating.MaximalSubgroups
```
Comment (LLaurance) [inline Mathlib/GroupTheory/GroupAction/SubMulAction/Combination.lean:14]: I'm not up-to-date with the new module/import system but `#min_imports` suggests only the last import will be necessary.

File: Mathlib/GroupTheory/GroupAction/SubMulAction/Combination.lean [hunk 3]
```diff
@@ -295,4 +333,132 @@ theorem mulActionHom_singleton_bijective [DecidableEq α] :
...
+    apply alternatingGroup.isCoatom_stabilizer
+    · rw [Combination.coe_nonempty_iff]
+      exact le_trans (by norm_num) h_three_le
+    · simpa [← Nat.Combination.coe_coe, ← Finset.coe_compl, Finset.coe_nonempty,
+        ← Finset.card_compl_lt_iff_nonempty, Combination.card_eq]
+    · contrapose hα
+      rw [← Nat.card_eq_fintype_card, hα, Nat.mul_left_cancel_iff (by norm_num),
+        ← Nat.Combination.coe_coe, Set.ncard_coe_finset, Combination.card_eq]
+  ext g
+  simp [mem_stabilizer_iff, ← Subtype.coe_inj, ← Finset.coe_inj]
```
Comment (LLaurance) [inline Mathlib/GroupTheory/GroupAction/SubMulAction/Combination.lean:462]:
```suggestion
  have : IsPretransitive _ (n.Combination α) :=
    isPretransitive_alternatingGroup (le_trans h_three_le (by simp [hn.le]))
  have : Nontrivial (n.Combination α) := nontrivial (by positivity) (by simpa using hn)
  obtain ⟨s⟩ := this.to_nonempty
  suffices stabilizer _ s = stabilizer _ (s : Set α) by
    rw [← isCoatom_stabilizer_iff_preprimitive _ s, this]
    apply alternatingGroup.isCoatom_stabilizer
    · exact coe_nonempty_iff.mpr (le_trans (by trivial) h_three_le)
    · simpa [← coe_coe, ← Finset.coe_compl, coe_nonempty, ← card_compl_lt_iff_nonempty, card_eq]
    · contrapose hα
      simp [← card_eq_fintype_card, hα, ← coe_coe, card_eq]
  rw [stabilizer_coe]
```

File: Mathlib/GroupTheory/GroupAction/SubMulAction/Combination.lean [hunk 4]
```diff
@@ -295,4 +333,132 @@ theorem mulActionHom_singleton_bijective [DecidableEq α] :
...
+  · have hn' : 2 ≤ n := by grind
+    apply IsPretransitive.of_surjective_map
+      (mulActionHom_of_embedding_surjective (alternatingGroup α) α)
+    have : IsMultiplyPretransitive (alternatingGroup α) α (Nat.card α -2) :=
+      alternatingGroup.isMultiplyPretransitive α
+    apply isMultiplyPretransitive_of_le (n := Nat.card α - 2)
+    · rw [Nat.le_sub_iff_add_le]
+      · apply le_trans (by grind) hn
+      · grind
+    · simp
```
Comment (LLaurance) [inline Mathlib/GroupTheory/GroupAction/SubMulAction/Combination.lean:425]:
```suggestion
  wlog! hn : 2 * n ≤ Nat.card α
  · have : IsPretransitive (alternatingGroup α) (Combination α (Nat.card α - n)) := by
      apply this hα
      rw [Nat.mul_sub, two_mul]
      simpa [add_le_add_iff_left] using hn.le
    wlog hn' : n ≤ Nat.card α
    · suffices Subsingleton (Combination α n) from inferInstance
      rw [← Finite.card_le_one_iff_subsingleton, Combination.card,
        choose_eq_zero_of_lt (not_le.mp hn')]
      trivial
    apply IsPretransitive.of_surjective_map (compl_bijective _ α _).surjective this
    rw [Nat.add_sub_cancel' hn', card_eq_fintype_card]
  · have := alternatingGroup.isMultiplyPretransitive
    apply IsPretransitive.of_surjective_map (mulActionHom_of_embedding_surjective _ α)
    apply isMultiplyPretransitive_of_le (n := Nat.card α - 2)
    · omega
    · simp
```

File: Mathlib/GroupTheory/GroupAction/SubMulAction/Combination.lean (hunk 2 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/SubMulAction/Combination.lean:14]: Indeed.
